US20010011134A1
28a 1-(4-Methoxybenzenesulfonyl)indoline-2-carboxylic acid
At 50° C. and 0.02 mbar, 1 g (6.1 mmol) of indoline-2-carboxylic acid and 2.5 g (12.2 mmol) of 4-methoxybenzenesulfonyl chloride are kept for 4 hours (h) in a kugelrohr which is rotated slowly and continuously. The brown crystalline product is subsequently taken up in sodium carbonate solution and extracted twice with diethyl ether. The aqueous phase is acidified using 6 N HCl and extracted four times with ethyl acetate. The combined organic phases are extracted with saturated NaCl solution, dried over sodium sulfate and concentrated under reduced pressure. Residual solvent is removed using oil pump vacuum. Yield: 1.34 g, (65% of theory) 1H-NMR: (DMSO-d6) 7.8; 7.1 (2d, 4H, arom. p-TsOH); 7.4-7.0 (m, 4H, arom.); 4.9 (dd, 1H, CHα); 3.8 (2, 3H, OMe); 3.4-2.9 (2 dd, 2H, CH2)

reactant | indoline-2-carboxylic acid | 6.1 mmol, 1 g | N1C(CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | 4-methoxybenzenesulfonyl chloride | 12.2 mmol, 2.5 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(4-Methoxybenzenesulfonyl)indoline-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(CC2=CC=CC=C12)C(=O)O | C16H15NO5S
